TPS54360B +5V buck, switching model: peak-current-mode (12 A/V COMP gain, 4.5 A min current limit, 400 kHz clock), 10 uH, 2 x 330 uF (45 mOhm each) + 10 uF, B560C; 8 V in (10000 uF raw rail minimum at 3 A), 1 A -> 3 A load step at 10 ms (after the soft-start / integrator settling); Rc 33.2k / Cc 33n / Cp 470p (datasheet 8.2.2.11, fco = sqrt(fp_mod fsw/2) = 5.3 kHz for Cout 670 uF)
.include ../models.lib
Vin vin 0 8
Rin vin vinf 0.02
Cin vinf 0 20u
Vclk clk 0 PULSE(0 1 0 5n 5n 60n 2.5u)
Vref ref 0 PWL(0 0 2m 0.8)
Rfb1 vout fb 10.5k
Rfb2 fb 0 2k
Bea 0 comp I = 350u*(v(ref) - v(fb))
Rc comp cc 33.2k
Cc cc 0 33n
Cp comp 0 470p
Dcl1 comp vcl DCL
Vcl vcl 0 2.6
Dcl2 vcl0 comp DCL
Vcl0 vcl0 0 -0.2
.model DCL D(Is=1e-12 n=1 Rs=1)
Bipk ipk 0 V = min(max((v(comp)-0.7)*12, 0), 4.5)
Bst 0 st I = ((v(clk) > 0.5) ? 20m : 0) - ((i(Vsw) > v(ipk)) ? 40m : 0)
Cst st 0 1n
Dst1 st vone DCL
Vone vone 0 1
Dst2 0 st DCL
Ssw vinf swa st 0 SWM
.model SWM SW(Ron=0.12 Roff=1e7 Vt=0.5 Vh=0.05)
Vsw swa sw 0
Dcatch 0 sw DB560C
L1 sw vout 10u
Cout1 vout c1 330u
Resr1 c1 0 0.045
Cout2 vout c2 330u
Resr2 c2 0 0.045
Cc3 vout 0 10u
Rl1 vout 0 5
Sload vout ld ctl 0 SWL
Rl2 ld 0 2.5
Vctl ctl 0 PULSE(0 5 10m 1u 1u 2.5m 30m)
.model SWL SW(Ron=0.01 Roff=1e9 Vt=2.5 Vh=0.1)
.options reltol=0.005 abstol=1u vntol=1m method=gear
.tran 20n 16m
.control
run
let il = i(L1)
let iload = i(Vin)
meas tran vout_ss AVG v(vout) from=9m to=10m
meas tran vout_ripple PP v(vout) from=9.9m to=10m
meas tran vout_step_min MIN v(vout) from=10m to=11.5m
meas tran vout_step_max MAX v(vout) from=12.5m to=14m
meas tran il_peak MAX il from=10.1m to=12.5m
meas tran vout_3a AVG v(vout) from=12m to=12.5m
meas tran iin_3a AVG iload from=12m to=12.5m
meas tran ipk_max MAX v(ipk) from=10m to=12.5m
meas tran t_settle WHEN v(vout)=4.95 RISE=1
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/buck_5v.csv v(vout) il v(sw) v(comp)
.endc
.end
